US07217723B2
2-Amino-7-oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonic acid[2-(4-fluorophenyl)-2-hydroxy-ethyl]-methyl-amide
A concentrated aqueous ammonia (24 mL) was added to 2-bromo-7-oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonic acid[2-(4-fluorophenyl)-2-hydroxy-ethyl]-methyl-amide (210 mg). After heating at 110° C. for 4 hours, the reaction solution was poured into water, brought to pH 9 with 5N hydrochloric acid, and extracted with ethyl acetate. The organic layer was dried with anhydrous magnesium sulfate, the residue resulting from the removal of the solvent by evaporation was purified by silica gel column chromatography (hexane/ethyl acetate), and the title compound (145 mg) was obtained as a colorless film.

reactant | ammonia | 24 mL | N | H3N
reactant | 2-bromo-7-oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonic acid[2-(4-fluorophenyl)-2-hydroxy-ethyl]-methyl-amide | 210 mg | FC1=CC=C(C=C1)C(CN(S(=O)(=O)C=1C2=C(SC1Br)C(CCC2)=O)C)O | C17H17BrFNO4S2
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | water | O | H2O
product | 2-Amino-7-oxo-4,5,6,7-tetrahydro-benzo[b]thiophene-3-sulfonic acid[2-(4-fluorophenyl)-2-hydroxy-ethyl]-methyl-amide | 145 mg | FC1=CC=C(C=C1)C(CN(S(=O)(=O)C=1C2=C(SC1N)C(CCC2)=O)C)O | C17H19FN2O4S2
